US08802728B2
Add H2O (9 mg, 0.500 mmol) and TMSCl (18 mg, 0.167 mmol) to a solution of 5-dimethylaminomethyl-6-(2-fluoro-5-hydroxy-phenyl)-spiro[2.5]octan-6-ol (41 mg, 0.139 mmol) in 2-butanone (30 mL). Stir the mixture at 0° C. for 2 hours. Concentrate the mixture under vacuum to give 5-dimethylaminomethyl-6-(2-fluoro-5-hydroxy-phenyl)-spiro[2.5]octan-6-ol hydrochloride as white solid (46 mg, Yield: 100%). 1H NMR (400 MHz, D2O) δ 7.13-7.15 (d, J1=6.8, J2=3.2, 1H), 6.93-6.98 (d, J1=12.0, J2=8.8, 1H), 6.69-6.73 (m, 1H), 3.05-3.10 (m, 1H), 2.65-2.76 (m, 8H), 2.44-2.45 (m, 1H), 2.27-2.35 (m, 2H), 1.70-1.74 (m, 1H), 0.96-0.98 (m, 1H), 0.79-0.82 (m, 1H), 0.45 (m, 1H).

reactant | H2O | 0.500 mmol, 9 mg | O | H2O
reactant | TMSCl | 0.167 mmol, 18 mg | C[Si](C)(C)Cl | C3H9ClSi
reactant | 5-dimethylaminomethyl-6-(2-fluoro-5-hydroxy-phenyl)-spiro[2.5]octan-6-ol | 0.139 mmol, 41 mg | CN(C)CC1CC2(CC2)CCC1(O)C1=C(C=CC(=C1)O)F | C17H24FNO2
solvent | 2-butanone | 30 mL | CC(CC)=O | C4H8O
product | 5-dimethylaminomethyl-6-(2-fluoro-5-hydroxy-phenyl)-spiro[2.5]octan-6-ol hydrochloride | 46 mg, Yield: 100% | Cl.CN(C)CC1CC2(CC2)CCC1(O)C1=C(C=CC(=C1)O)F | InChI=1S/C17H24FNO2.ClH/c1-19(2)11-12-10-16(5-6-16)7-8-17(12,21)14-9-13(20)3-4-15(14)18;/h3-4,9,12,20-21H,5-8,10-11H2,1-2H3;1H
